US08648099B2
d) 5-Cyclohexyl-N-(4-hydroxypiperidin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide
The title compound was synthesized in analogy to Example 1 using 5-cyclohexyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid and 1-amino-4-piperidinol (CAN 79414-82-7) as starting materials; LC-MS (UV peak area/ESI) 96.4%, 402.1991 (M+H)+.

reactant | 5-cyclohexyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid | C1(CCCCC1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H16F3NO3
reactant | 1-amino-4-piperidinol | NN1CCC(CC1)O | C5H12N2O
product | 5-Cyclohexyl-N-(4-hydroxypiperidin-1-yl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxamide | C1(CCCCC1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN1CCC(CC1)O | C19H26F3N3O3
